US06262112B1
Methyl 4-fluoro-2-nitrobenzoate
Thionyl chloride (31.5 ml; 0.432 mol) was slowly added dropwise at 0C to a solution of 4-fluoro-2-nitrobenzoic acid (16.0 g, 86.4 mmol) in methanol (240 ml). After warming to RT, stirring overnight and boiling under reflux for 4 h, the reaction solution was concentrated in vacuo and partitioned between ethyl acetate and potassium hydrogencarbonate solution. Drying and concentration of the organic phase afforded a yellow oil.

reactant | Thionyl chloride | 0.432 mol, 31.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-fluoro-2-nitrobenzoic acid | 86.4 mmol, 16.0 g | FC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | methanol | 240 ml | CO | CH4O
product | Methyl 4-fluoro-2-nitrobenzoate | FC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6FNO4
